US07179804B2
1-[5-(2-chloro-phenyl)-3-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-4-yl]-3-pyrimidin-5-yl-prop-2-yn-1-ol
Add 3M ethylmagnesium bromide (36 mL, 109 mmol) in diethyl ether to a 0° C. solution of 5-ethynyl-pyrimidine (8.1 g, 77 mmol) in THF (75 mL). Add 5-(2-chloro-phenyl)-3-(tetrahydro-pyran-2-yloxymethyl)-isoxazole-4-carbaldehyde (10 g, 31 mmol) in THF (75 mL) and stir 15 h at RT. Quench the reaction with 1N HCl and extract with diethyl ether (2×150 mL). Wash the organic phase with brine (150 mL), dry over sodium sulfate, filter and concentrate under reduced pressure. Purification by flash chromatography (silica gel, 1:1 to 3:7 hexanes/EtOAc) gives the title compound (5.3 g, 40%): 1H NMR (300 MHz, CDCl3) δ 9.18 (s, 1H), 8.35 (s, 2H), 7.44–7.62 (m, 4H), 5.65 (t, J=14 Hz, 1H), 5.08–5.28 (m, 1H), 4.80–4.95 (m, 2H), 4.42–4.60 (m, 1H), 3.80–4.01 (m, 1H), 3.51–3.68 (m, 1H), 1.54–1.90 (m, 6H); TLC Rf=0.20 (3:7 Hexanes:EtOAc).

reactant | ethylmagnesium bromide | 109 mmol, 3M, 36 mL | C(C)[Mg]Br
reactant | 5-ethynyl-pyrimidine | 77 mmol, 8.1 g | C(#C)C=1C=NC=NC1 | C6H4N2
reactant | 5-(2-chloro-phenyl)-3-(tetrahydro-pyran-2-yloxymethyl)-isoxazole-4-carbaldehyde | 31 mmol, 10 g | ClC1=C(C=CC=C1)C1=C(C(=NO1)COC1OCCCC1)C=O | C16H16ClNO4
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 1-[5-(2-chloro-phenyl)-3-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-4-yl]-3-pyrimidin-5-yl-prop-2-yn-1-ol | 5.3 g, 40% | ClC1=C(C=CC=C1)C1=C(C(=NO1)COC1OCCCC1)C(C#CC=1C=NC=NC1)O | C22H20ClN3O4
